Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
BLE edema and ascites
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ EtOH abuse (15 drinks/week), psoriatic arthritis, Hx
lumpectomy (no clinical documentation available for further
details), presented with 1.5 weeks progressively worsening
peripheral edema and new onset ascites. 

Pt reports normal state of health until recently. 1.5 weeks ago
noted new abdominal swelling, continuing and worsening until
present with some abdominal tightness discomfort but no n/v,
change in BM. Tolerating diet though generally has limited
appetite. Also some pedal swelling she attributed to long
standing at work; went down with elevating legs. No jaundice,
easy bleeding/bruising. No known Hx cirrhosis or liver disease.
Had a past history of heavy etoh though she now drinks
occasionally, about once weekly. Current long term smoker, ___
years. 

Some recent social stressors, went through a divorce and
subsequently had to move several times. Some depression and
'PTSD' Sx per pt though not seeing any MD formally and not on
meds. Feels mood has improved with starting work again (works
___ in a bar)

In general not following up actively with PCP, doesn't have one
established at present

Labs at ___ notable for H/H of 10.4/30.8, WBC 10.9, INR 1.67, Na
127, TBili 5.9, DBili 3, AST 169 (ALT 28), ALP 189, albumin 2.3.
Neg serum tox, neg hep panel. UA pos for UTI. CT scan performed
showed liver masses concerning for metastatic disease; distended
GB and CBD with no stones; pancreatic calcifications indicative
of chronic pancreatitis (lipase WNL), ascites, splenomegaly. GI
at OS___ consulted and rec'd MRCP, liver Bx w/ transfer to ___. 


In ED:
VS: afeb, HR 87, 104/62, 97% on RA
ED Exam: NAD, scleral icterus noted, distended abdomen, 1+ edema
to mid-shin
Labs: wbc 11, hb 10.4 (no prior), plt 171, Na 127,  other BMP
unremarkable, AST 169, ALT 28, AP 189, Tbili 5.9, Dbili 3.0, Alb
2.3, lipase 33, Stox neg, hepatitis panel neg
- UA: 3+ bact, ___ wbc, ___ rbc, 1+ leuk, nitr+; EPI 2+
Imaging: see above; no new imaging
Received: CTX/flagyl
Consult: ERCP felt position of lesiosn not amenable to ERCP/EUS,
rec MRI and ___ consult eventually

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- H/o EtOH abuse (15 drinks/week), 
- psoriatic arthritis, 
- Hx lumpectomy (no clinical documentation available for further
details)
 
Social History:
___
Family History:
Alcohol use disorder
 
Physical Exam:
Admission physical exam
========================
VITALS: Afebrile and vital signs significant for normotensive,
oxygenating well
GENERAL: Alert and in no apparent distress
EYES: +scleral icteris, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. Trace pedal
edema
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen moderate-severely distended, not tympanic; mildly 
TTP
diffusely.  Bowel sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted; no diffuse jaundice
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge physical exam
==========================

Patient examined on day of discharge. Abdomen is soft and 
non-tender, no drainage for paracentesis site. +spider angiomas, 
and +palmar erythema. No asterixis on exam.
 
Pertinent Results:
Admission labs
=====================
___ 06:01AM BLOOD WBC-7.6 RBC-2.79* Hgb-9.5* Hct-27.8* 
MCV-100* MCH-34.1* MCHC-34.2 RDW-15.5 RDWSD-57.5* Plt ___
___ 06:01AM BLOOD Glucose-82 UreaN-11 Creat-0.7 Na-135 
K-3.7 Cl-100 HCO3-24 AnGap-11
___ 06:01AM BLOOD ALT-23 AST-145* LD(LDH)-167 AlkPhos-188* 
TotBili-4.1* DirBili-2.9* IndBili-1.2
___ 06:01AM BLOOD Calcium-8.1* Phos-3.1 Mg-1.8

Discharge labs
=====================

___ 05:36AM BLOOD WBC-8.9 RBC-2.55* Hgb-8.6* Hct-25.6* 
MCV-100* MCH-33.7* MCHC-33.6 RDW-15.1 RDWSD-55.1* Plt ___
___ 05:36AM BLOOD Glucose-173* UreaN-6 Creat-0.6 Na-134* 
K-3.3* Cl-97 HCO3-23 AnGap-14
___ 05:36AM BLOOD ALT-26 AST-97* AlkPhos-163* TotBili-3.2*
___ 06:05AM BLOOD ___ AFP-7.1
___ 06:05AM BLOOD AMA-NEGATIVE Smooth-PND
___ 06:05AM BLOOD I___-___

Imaging
=====================

TTE:

IMPRESSION: Normal study. Normal biventricular cavity sizes and 
regional/global biventricular
systolic function. No valvular pathology or pathologic flow 
identified. Normal estimated pulmonary
artery systolic pressure.

CXR: 

Mild bibasilar atelectasis.  No focal consolidation.

MRI liver:

Evidence of cirrhosis associated to expected splenomegaly and 
ascites.  No
focal liver lesions are identified.
Heterogeneous pancreas with mild dilation of the pancreatic 
duct.  As per
clinical note, calcifications are described on CT evaluation, 
making these
findings consistent with chronic pancreatitis.
 
 
Brief Hospital Course:
___ yo F with h/o EtOH abuse (15 drinks/week), psoriatic 
arthritis, h/o lumpectomy (no clinical documentation for further 
details) who presented with 1.5 weeks of progressively worsening 
peripheral edema and new onset ascites. At BID-P, a CT scan 
showed heterogeneity concerning for liver lesions; she was 
therefore transferred to ___. An MRI of the abdomen was 
obtained, which showed no lesions, but was consistent with 
cirrhosis. She had an LVP with 3.5 liters removed; no SBP with 
good symptom relief. She was evaluated by hepatology; her 
cirrhosis was most consistent with alcoholic, though given her 
history of psoriatic arthritis, autoimmune certainly possible as 
well. ___ negative; remainder of serologies are pending at 
discharge. Hepatitis serologies were negative at BID-P. She was 
starting on furosemide and spironalactone. Renal function was 
normal. The patient strongly desired discharge so she would not 
lose her job; therefore, she was discharged on these 
medications. Because of low potassium (3.3) she was also sent on 
a potassium supplement. She will follow up next week with 
hepatology for an electrolyte check. She will also need an EGD 
as an outpatient to screen for varices.

1. New cirrhosis.
2. Ascites

- follow up anti SMA and remainder of autoimmune serologies
- spironalactone 50 mg, furosemide 20 mg
- BMP to be checked within a week

3. Asymptomatic bacteuria. She recieved two doses of 
ceftriaxone; because of absence of symptoms this was stopped.

> 35 minutes spent on discharge activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Potassium Chloride 40 mEq PO DAILY 
RX *potassium chloride 20 mEq 2 tablets by mouth Daily in the 
morning Disp #*60 Tablet Refills:*0 
3.  Spironolactone 50 mg PO DAILY 
RX *spironolactone 50 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cirrhosis with ascites

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

You were admitted with abdominal swelling. Initially we had 
concerns that you might have masses in your liver; however, we 
performed an MRI which showed no masses but new cirrhosis with 
ascites (fluid). You had this fluid drained, and you were 
started on diuretics (furosemide and spironalactone) to keep the 
fluid off. You will have to have close follow up with a 
hepatologist (liver doctor), and likely need these medications 
increased. 

You will also need an endoscopy to evaluate for varices (blood 
vessels in your throat that can bleed). This will be scheduled 
my your hepatologist.

It has been a pleasure taking care of you. Good luck!
 
Followup Instructions:
___